US05981533
4-Cyano-5-(dimethylamino-methyleneamino)-3-(4-methoxy-phenylamino)-pyrazole
A suspension of 5.41 g (23.6 mmol) of 5-amino-4-cyano-3-(4-methoxy-phenylamino)-pyrazole [for preparation see: J. Heterocyclic Chem. 27, 775 (1990)] in 4.8 ml (27.2 mmol) of N,N-dimethylformamide diethyl acetal (97%) and 100 ml of toluene is heated under reflux for 5 hours. The reaction mixture is then cooled to room temperature and filtered and the filter residue is washed with toluene. Recrystallization of the crude product from methanol/water yields the title compound; m.p. 232-234° C. (decomp.).

reactant | 5-amino-4-cyano-3-(4-methoxy-phenylamino)-pyrazole | 23.6 mmol, 5.41 g | NC1=C(C(=NN1)NC1=CC=C(C=C1)OC)C#N | C11H11N5O
reactant | N,N-dimethylformamide diethyl acetal | 27.2 mmol, 4.8 ml | C(C)OC(N(C)C)OCC | C7H17NO2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Cyano-5-(dimethylamino-methyleneamino)-3-(4-methoxy-phenylamino)-pyrazole | C(#N)C=1C(=NNC1N=CN(C)C)NC1=CC=C(C=C1)OC | C14H16N6O
